US05418248
N,N-Dimethyl-2-(5-methylthien-2-yl)imidazo[2,1-b]-benzothiazole-3-acetamide.
40 g (0.0938 mole) of α-chloro-N,N-dimethyl-2-(5-methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetamide hydrochloride in solution in 1200 ml of dichloromethane are treated with 43.6 (0.283 mole) of Rongalite®, while stirring the mixture at room temperature for 6 h. The suspension is filtered, it is rinsed with dichloromethane and the organic phase is washed (pH=1) with 500 ml of 0.5N sodium hydroxide up to a pH>10, then to neutral pH with a saturated sodium chloride solution. The organic phase is dried over sodium sulphate and the solvent is evaporated under reduced pressure. A beige-coloured solid is obtained which is purified by chromatography on a silica gel column, eluting with a 95/5 mixture of dichloromethane/methanol. 23.9 g of a white solid are obtained. Melting point: 216°-218° C.

reactant | α-chloro-N,N-dimethyl-2-(5-methylthien-2-yl)imidazo[2,1-b]benzothiazole-3-acetamide hydrochloride | 0.0938 mole, 40 g | Cl.ClC(C(=O)N(C)C)C1=C(N=C2SC3=C(N21)C=CC=C3)C=3SC(=CC3)C
reactant | Rongalite | C(O)S(=O)[O-].[Na+]
solvent | dichloromethane | 1200 ml | ClCCl | CH2Cl2
product | N,N-Dimethyl-2-(5-methylthien-2-yl)imidazo[2,1-b]-benzothiazole-3-acetamide | 23.9 g | CN(C(CC1=C(N=C2SC3=C(N21)C=CC=C3)C=3SC(=CC3)C)=O)C | C18H17N3OS2
